US06015825
(i) 2-ethyl-5-(1,2,3-triazol-2-yl)pyridine
The title compound was prepared from 5-bromo-2-ethylpyridine (Preparation 65) and 1,2,3-triazole by a similar method to Preparation 1. The regioisomeric product were separated by column chromatography on silica by gradient elution with ethyl acetate/hexane (1:1→1:0). Fractions containing the title compound eluted first, these were combined and evaporated under reduced pressure to yield an oil, which was distilled b.p.135° C. @ 0.05 mmHg (Kugelrohr).

reactant | 5-bromo-2-ethylpyridine | BrC=1C=CC(=NC1)CC | C7H8BrN
reactant | 1,2,3-triazole | N1N=NC=C1 | C2H3N3
product | 2-ethyl-5-(1,2,3-triazol-2-yl)pyridine | C(C)C1=NC=C(C=C1)N1N=CC=N1 | C9H10N4
